### PR TITLE
[Merged by Bors] - feat(Algebra/RingTheory): polynomial over regular ring

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we prove that the ring of polynomials over a regular ring is regular.

---

- [x] depends on: #41156

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 1]
```diff
@@ -34,6 +34,7 @@ private noncomputable def Ideal.primeHeight [hI : I.IsPrime] : ℕ∞ :=
   Order.height (⟨I, hI⟩ : PrimeSpectrum R)
 
 /-- The height of an ideal is defined as the infimum of the heights of its minimal prime ideals. -/
+@[no_expose]
```
Comment (joneugster) [inline Mathlib/RingTheory/Ideal/Height.lean]: Could you mention this and potential implications in the PR description?

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+
+-/
+
+@[expose] public section
+
+variable (R : Type*) [CommRing R]
+
+open IsLocalRing Polynomial Ideal
+
+lemma Polynomial.localization_at_comap_maximal_isRegularRing_isRegularRing
```
Comment (joneugster) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]: this name seems slightly off, is that possible?

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean
Comment (joneugster) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean:1]: Thank you very much for PR and the patience!

The proofs in here are quite long. unfortunately, I don't have time to look at them today and then I'm away for two weeks. 

Are there any parts which could be factored into smaller helper statements, so that the wider mathlib could profit from these helper lemmas?

File: Mathlib/RingTheory/Ideal/Height.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Height.lean]: This is a merging error, I should just remove this.

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/Polynomial.lean:1]: It is a bit sorry this is a bit corner PR I didn't polish it very well. I have some idea, but not very sure how to implement.
First is that big calculation, I think it can somehow stated via `q = m[X] + Ideal.span {p}` where `p` is monic.
Second is this reduction to first lemma, this seems being also useful for CM ring, but I have no idea what the general form is.
If you think these should separate out I'll find some time to figure it out.

**Comment by Thmoas-Guan** [comment]
I separated some lemmas, `Polynomial.exists_monic_span_sup_map_eq` is also useful for CM ring but I didn't find a good possible upstream. Can anybody help moving it?

**Comment by joneugster** [comment]
> I separated some lemmas, `Polynomial.exists_monic_span_sup_map_eq` is also useful for CM ring but I didn't find a good possible upstream. Can anybody help moving it?

I've looked at this a bit, but I don't think there is any existing file which is really suitable. 

The helper lemma `exists_monic_span` would compile in `Mathlib.Algebra.Polynomial.FieldDivision` which is where the relevant instance is defined (`instEuclideanDomain : EuclideanDomain R[X]` which implies PID), but putting it there feels a bit random.

I suggest leaving them in this file for now.

poly

**Comment by joneugster** [comment]
Thank you for the PR, I suggest

maintainer merge

**Comment by Thmoas-Guan** [comment]
I believe we can have a new file for them, also @chrisflav have some comment on the proof of the first lemma but I don't know how to proceed, since there got some problem on field being normalization monoid.

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 3]
```diff
@@ -0,0 +1,136 @@
...
+-/
+module
+
+public import Mathlib.Algebra.Polynomial.FieldDivision
+public import Mathlib.RingTheory.KrullDimension.Polynomial
+public import Mathlib.RingTheory.RegularLocalRing.Defs
+
+/-!
+
+# Polynomial over Regular Ring
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean:15]: Can you please add a `Main results` section?

**Comment by Thmoas-Guan** [comment]
May I ask for a check whether the newly separated file is appropriate? Thanks

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 4]
```diff
@@ -0,0 +1,116 @@
...
+public import Mathlib.Algebra.Polynomial.FieldDivision
+public import Mathlib.RingTheory.Ideal.MonicSpan
+public import Mathlib.RingTheory.KrullDimension.Polynomial
+public import Mathlib.RingTheory.RegularLocalRing.Defs
+
+/-!
+
+# Polynomial over Regular Ring
+
+In this file we proved that polynomial over regular ring is regular ring.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]:
```suggestion
In this file we prove that the polynomial ring over a regular ring is regular.
```

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 5]
```diff
@@ -0,0 +1,116 @@
...
+
+# Main results
+
+* `Polynomial.isRegularRing_of_isRegularRing` : polynomial over regular ring is regular ring.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]: Can you fix the grammar as I suggest above?

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 6]
```diff
@@ -0,0 +1,116 @@
...
+
+* `MvPolynomial.isRegularRing_of_isRegularRing` : multivariate polynomial with finite variates
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]: Same.

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 7]
```diff
@@ -0,0 +1,116 @@
...
+    apply le_trans _ (WithBot.coe_le_coe.mpr (add_le_add_left ht 1))
+    rw [WithBot.coe_add, maximalIdeal_height_eq_ringKrullDim, WithBot.coe_one, ← reg,
+      ← Nat.cast_one, ← Nat.cast_add, Nat.cast_le]
+    have fin := (fg.image (algebraMap R R[X])).union (Set.finite_singleton y)
+    apply le_trans (Submodule.spanFinrank_span_le_ncard_of_finite (fin.image _))
+    apply le_trans (Set.ncard_image_le fin) (le_trans (Set.ncard_union_le _ _) _)
+    rw [Set.ncard_singleton, add_le_add_iff_right, ← Submodule.FG.generators_ncard fg']
+    exact Set.ncard_image_le fg
+
+theorem Polynomial.isRegularRing_of_isRegularRing [IsRegularRing R] : IsRegularRing R[X] := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]: This should be an instance.

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 8]
```diff
@@ -0,0 +1,116 @@
...
+    rw [← Polynomial.algebraMap_eq (R := Localization.AtPrime q),
+      ← IsScalarTower.algebraMap_eq R (Localization.AtPrime q) (Localization.AtPrime q)[X],
+      IsScalarTower.algebraMap_eq R R[X] (Localization.AtPrime q)[X], ← comap_comap,
+      ← Ideal.under_def R[X], IsLocalization.under_map_of_isPrime_disjoint pc _ ‹_› disj]
+    simp [q, IsLocalization.AtPrime.under_maximalIdeal (Localization.AtPrime q) q]
+  have := isRegularLocalRing_localization_atPrime_of_comap_eq_maximalIdeal _ pS eq
+  exact IsRegularLocalRing.of_ringEquiv (IsLocalization.algEquiv p.primeCompl
+    (Localization.AtPrime pS) (Localization.AtPrime p)).toRingEquiv
+
+lemma MvPolynomial.isRegularRing_of_isRegularRing [IsRegularRing R] {ι : Type*} [Finite ι] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]: It should also be an instance.

File: Mathlib/RingTheory/Ideal/MonicSpan.lean [hunk 9]
```diff
@@ -0,0 +1,53 @@
...
+
+-/
+
+@[expose] public section
+
+variable (R : Type*) [CommRing R]
+
+open Polynomial Ideal
+
+lemma Polynomial.exists_monic_span {k : Type*} [Field k] (I : Ideal k[X]) (ne : I ≠ ⊥) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/MonicSpan.lean]: What you should prove here is that, given a principal ideal in a [NormalizationMonoid](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GCDMonoid/Basic.html#NormalizationMonoid)  one can find a generator that is normalized. This may even be already there, in some form.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/MonicSpan.lean]: It is some decidable problem, I fixed it

Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/MonicSpan.lean]: I mean this should be stated in greater generality.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/MonicSpan.lean]: Sorry, how to state being normalized? Since arbitrary generator `x` would have associated  `normalize x` generating the ideal? Or is this exactly the lemma you would like to add?

**Comment by Thmoas-Guan** [comment]
Since this involved multiple files, I've opened #41156.

File: Mathlib/RingTheory/Ideal/MonicSpan.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/MonicSpan.lean]: Yes, exactly.

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 10]
```diff
@@ -0,0 +1,117 @@
...
+
+open IsLocalRing Polynomial Ideal
+
+lemma Polynomial.isRegularLocalRing_localization_atPrime_of_comap_eq_maximalIdeal
+    [IsRegularLocalRing R] (p : Ideal R[X]) [p.IsPrime] (max : p.comap C = maximalIdeal R) :
+    IsRegularLocalRing (Localization.AtPrime p) := by
+  apply IsRegularLocalRing.of_spanFinrank_maximalIdeal_le
+  let q := (maximalIdeal R).map C
+  have qle : q ≤ p := by simpa [q, ← max] using map_comap_le
+  have Ker : RingHom.ker (Polynomial.mapRingHom (IsLocalRing.residue R)) = q := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]: This `have` is unused.

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 11]
```diff
@@ -0,0 +1,117 @@
...
+public import Mathlib.RingTheory.KrullDimension.Polynomial
+public import Mathlib.RingTheory.RegularLocalRing.Defs
+
+/-!
+
+# Polynomial over Regular Ring
+
+In this file we prove that the polynomial ring over a regular ring is regular.
+
+# Main results
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]:
```suggestion
## Main results
```

File: Mathlib/RingTheory/RegularLocalRing/Polynomial.lean [hunk 12]
```diff
@@ -0,0 +1,117 @@
...
+  let q := p.comap C
+  let S := (Localization.AtPrime q)[X]
+  let pc := Submonoid.map Polynomial.C.toMonoidHom q.primeCompl
+  let : Algebra R[X] S := algebra R (Localization.AtPrime q)
+  have : IsLocalization pc S := Polynomial.isLocalization _ _
+  let pS := p.map (algebraMap R[X] S)
+  have disj : Disjoint (pc : Set R[X]) (p : Set R[X]) := by
+    simpa [pc, q] using! Set.disjoint_image_left.mpr
+      (Set.disjoint_compl_left_iff_subset.mpr (fun _ a ↦ a))
+  have : pS.IsPrime :=  IsLocalization.isPrime_of_isPrime_disjoint pc _ _ ‹_› disj
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Polynomial.lean]:
```suggestion
  have : pS.IsPrime := IsLocalization.isPrime_of_isPrime_disjoint pc _ _ ‹_› disj
```

File: Mathlib/RingTheory/Ideal/MonicSpan.lean [hunk 13]
```diff
@@ -0,0 +1,54 @@
...
+public import Mathlib.RingTheory.Ideal.Quotient.Operations
+public import Mathlib.RingTheory.Polynomial.Basic
+
+/-!
+
+# Lemmas for ideal in polynomial span by monic polynomial
+
+-/
+
+@[expose] public section
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/MonicSpan.lean:19]: I don't understand why this file is still in the diff. can you merge master and check?

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/Ideal/MonicSpan.lean (hunk 13 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/MonicSpan.lean:19]: It is just merge master problem ... thanks

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
